US07449486B2
Synthesis of 1-[2-(3-dimethylaminopropyl)-5-(3-fluorophenyl)-2-phenyl-[1,3,4]thiadiazol-3-yl]-2-methylpropan-1-one
To a solution of 1-(2-(3-aminopropyl)-5-(3-fluorophenyl)-2-phenyl-1,3,4-thiadiazol-3(2H)-yl)-2-methylpropan-1-one (9.0 mg, 0.02 mmol) in MeOH (1 mL) was added paraformaldehyde (10 mg, 0.40 mmol). The mixture was heated to 70° C. for 2 hours. The mixture was allowed to cool to room temperature and sodium cyanoborohydride (0.07 mL, 0.07 mmol, 1M solution in THF) was added. After stirring for 40 minutes, the mixture was diluted with half saturated NaCl (50 mL) and extracted with ethyl acetate (3×25 mL). The combined organics were washed with saturated NaCl, dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by flash column chromatography (2% triethylamine, 40% ethyl acetate in hexanes) to provide the final product (3.0 mg, 30%) as pale yellow film. MS ESI (+) m/z 414 (M+1) detected; 1H NMR (400 MHz, CDCl3) δ 7.44 (m, 3H), 7.36 (m, 5H), 7.14 (m, 1H), 3.51 (m, 1H), 3.17 (m, 1H), 2.40 (m, 3H), 2.23 (s, 6H), 1.92 (m, 1H), 1.53 (m, 1H), 1.20 (d, 3H, J=7 Hz), 1.18 (d, 3H, J=7 Hz).

reactant | 1-(2-(3-aminopropyl)-5-(3-fluorophenyl)-2-phenyl-1,3,4-thiadiazol-3(2H)-yl)-2-methylpropan-1-one | 0.02 mmol, 9.0 mg | NCCCC1(SC(=NN1C(C(C)C)=O)C1=CC(=CC=C1)F)C1=CC=CC=C1 | C21H24FN3OS
reactant | paraformaldehyde | 0.40 mmol, 10 mg | C=O | CH2O
reactant | sodium cyanoborohydride | 0.07 mmol, 1M, 0.07 mL | C(#N)[BH3-].[Na+]
solvent | MeOH | 1 mL | CO | CH4O
solvent | NaCl | 50 mL | [Na+].[Cl-]
product | 1-[2-(3-dimethylaminopropyl)-5-(3-fluorophenyl)-2-phenyl-[1,3,4]thiadiazol-3-yl]-2-methylpropan-1-one | 3.0 mg, 30% | CN(CCCC1(SC(=NN1C(C(C)C)=O)C1=CC(=CC=C1)F)C1=CC=CC=C1)C | C23H28FN3OS
